US04935533
Synthesis of 2-(1-cyclohexenyl)-5-phenyl-2,4-pentadienenitrile
In a 50 ml 3-necked round bottom flask equipped with a nitrogen inlet, condensor and magnetic stir bar is placed cinnamaldehyde (2.64 g, 0.02 mol), 1-cyclohexenylacetonitrile (2.42 g, 0.02 mol) and sodium hydroxide (0.2 g, 0.005 mol) in absolute ethanol (25 ml). The reaction is stirred at room temperature until completion, during which time the crude product precipitates from solution. The precipitate is filtered, washed with water and dried. Recrystallization from ethanol yields a yellowish solid with maximum absorption at 338 nm and extinction coefficient of 45,825.

reactant | cinnamaldehyde | 0.02 mol, 2.64 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | 1-cyclohexenylacetonitrile | 0.02 mol, 2.42 g | C1CCC(=CC1)CC#N | C8H11N
reactant | sodium hydroxide | 0.005 mol, 0.2 g | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-(1-cyclohexenyl)-5-phenyl-2,4-pentadienenitrile | C1(=CCCCC1)C(C#N)=CC=CC1=CC=CC=C1 | C17H17N
